US06673800B2
Preparation of 1-(2-Methoxyphenyl)-[4-(3-styryl-4,5-dihydroisoxazol-5-yl)butyl]piperazine
4-[3-(2-Phenylvinyl)-4,5-dihydroisoxazol-5-yl]butanal (23.4 mg, 0.096 mmol), 1-(2-methoxyphenyl)piperazine hydrochloride (20.0 mg, 0.087 mmol), molecular sieve (5 beads), NaBH(OAc)3 (55.6 mg, 0.262 mmol) and diisopropylethylamine (26.9 L, 0.087 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 28.7 mg (73.2%) of the target compound was obtained.

reactant | 4-[3-(2-Phenylvinyl)-4,5-dihydroisoxazol-5-yl]butanal | 0.096 mmol, 23.4 mg | C1(=CC=CC=C1)C=CC1=NOC(C1)CCCC=O | C15H17NO2
reactant | 1-(2-methoxyphenyl)piperazine hydrochloride | 0.087 mmol, 20.0 mg | Cl.COC1=C(C=CC=C1)N1CCNCC1
reactant | NaBH(OAc)3 | 0.262 mmol, 55.6 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | diisopropylethylamine | 0.087 mmol, 26.9 L | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Methoxyphenyl)-[4-(3-styryl-4,5-dihydroisoxazol-5-yl)butyl]piperazine | 28.7 mg, 73.2% | COC1=C(C=CC=C1)N1C(CNCC1)CCCCC1CC(=NO1)C=CC1=CC=CC=C1 | C26H33N3O2
